US05030715
2-(L-lysylamino)-heptanedioic acid
678 mg of 6-(L-lysylamino) 3-heptenedioic acid prepared as in Example 9 were dissolved at ambient temperature in 70 ml of ethanol and 2.1 ml of N hydrochloric acid and then 140 mg of palladium on active carbon were added, followed by hydrogenation under 1100 millibars for an hour and a half. The residue, after filtering, was evaporated to dryness, rinsed with ethanol then with water, dried and concentrated to dryness under reduced pressure. The residue was dissolved in water, and the pH was adjusted to 6 with ammonium hydroxide. The mixture was purified by passing through Dowex 50 W×8 ion-exchange resin and eluting with water and then with 0.5N ammonia, evaporation to dryness and lyophilized to obtain 566 mg of the expected product with a specific rotation of [α]D =+29°±1.5° (c=0.7% in H2O).

reactant | 6-(L-lysylamino) 3-heptenedioic acid | 678 mg | N[C@@H](CCCCN)C(=O)NC(CC=CCC(=O)O)C(=O)O | C13H23N3O5
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium | 140 mg | [Pd] | Pd
product | 2-(L-lysylamino)-heptanedioic acid | 566 mg | N[C@@H](CCCCN)C(=O)NC(C(=O)O)CCCCC(=O)O | C13H25N3O5
